US06927228B2
(g) N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methylbenzamide
1.4 g (3.3 mmol) of N-[4′-(2,4-dioxo-thiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methylbenzamide, 30 ml of DMF and 25 ml of ethyl acetate are introduced into a three-necked flask. The reaction medium is degassed, 1.4 g of palladium-on-charcoal (10%) are introduced and the mixture is hydrogenated under atmospheric pressure at 60° C. The reaction medium is filtered and evaporated, and the residue obtained is purified by chromatography on a column of silica eluded with a mixture of dichloromethane and methanol (99/1). After evaporation of the solvents, 300 mg (21%) of N-[4′-(2,4-dioxo-thiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylbenzamide with a melting point of 70-71° C., are collected.

reactant | N-[4′-(2,4-dioxo-thiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methylbenzamide | 3.3 mmol, 1.4 g | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)C | C25H20N2O3S
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methylbenzamide | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)C | C25H22N2O3S
